US09278950B2
3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-(morpholin-4-ylmethyl)quinoline-2-carboxamide
The title compound was prepared according to the procedure of Example 19 using benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-formylquinolin-3-yl)carbamate and morpholine as the starting materials to give the title compound in 40% yield. LCMS calc. for C25H32N7O2 (M+H)+: m/z=462.3. Found: 462.2.

reactant | benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-formylquinolin-3-yl)carbamate | C(C)(C)(C)OC(=O)N[C@@H]1CN(CCC1)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=O | C34H36N6O6
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-(morpholin-4-ylmethyl)quinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)CN1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)N | C25H31N7O2
